US06407096B1
1-(2-hydroxyethyl)-6-hydroxy-2,3,4,5-tetrahydro-1H-1-benzazepine
Methyl (6-acetoxy-2-oxo-2,3,4,5-tetrahydro-1H-1-benzazepin-1-yl)acetate (1080 mg) was dissolved in THF (15 ml) under an argon atmosphere, and the resultant solution was stirred at 0° C. Lithium aluminum hydride (355 mg) was added to the solution, and the mixture was stirred at 0° C. After disappearance of the raw materials was confirmed, the reaction solution was added to water (100 ml), and then extracted with ethyl acetate. The resultant organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, and then concentrated. The resultant residue was purified by column chromatography (silica gel:hexane/ethyl acetate=2/1) to obtain the object compound (624 mg, yield 81%).

reactant | Methyl (6-acetoxy-2-oxo-2,3,4,5-tetrahydro-1H-1-benzazepin-1-yl)acetate | 1080 mg | C(C)(=O)OC1=CC=CC2=C1CCCC(N2CC(=O)OC)=O | C15H17NO5
reactant | Lithium aluminum hydride | 355 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 100 ml | O | H2O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 1-(2-hydroxyethyl)-6-hydroxy-2,3,4,5-tetrahydro-1H-1-benzazepine | 624 mg, yield 81% | OCCN1CCCCC2=C1C=CC=C2O | C12H17NO2
